US04732998
A solution of (phenoxymethylene)-bisphosphonic acid (8.04 g) in absolute ethanol (50 ml) was added to a stirred solution of silver trifluoroacetate (33.15 g) in absolute ethanol (200 ml). The mixture was cooled in ice and filtered. Drying in vacuo gave tetrasilver (phenoxymethylene)-bisphosphonate as a beige powder (17.9 g) which was suspended in acetonitrile (360 ml) and treated with iodomethyl pivalate (31.1 g). After stirring for 30 minutes at room temperature, the mixture was filtered, and the filtrate was evaporated in vacuo to leave a crude oil which was purified by chromatography on silica gel to give the title compound as a colourless oil.

reactant | (phenoxymethylene)-bisphosphonic acid | 8.04 g | O(C1=CC=CC=C1)C(P(O)(O)=O)P(O)(O)=O | C7H10O7P2
reactant | silver trifluoroacetate | 33.15 g | FC(C(=O)[O-])(F)F.[Ag+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | tetrasilver (phenoxymethylene)-bisphosphonate | 17.9 g | O(C1=CC=CC=C1)C(P([O-])([O-])=O)P([O-])([O-])=O.[Ag+].[Ag+].[Ag+].[Ag+] | InChI=1S/C7H10O7P2.4Ag/c8-15(9,10)7(16(11,12)13)14-6-4-2-1-3-5-6;;;;/h1-5,7H,(H2,8,9,10)(H2,11,12,13);;;;/q;4*+1/p-4
